US07101892B2
1-Methyl-3-(2-methylbut-3-enylsulfanyl)benzene
A mixture of 3-methylbenzenethiol (1.80 ml, 23.82 mmol), 2-methyl-3-buten-1-ol (2.73 ml, 26.47 mmol) and triphenylphosphine (6.94 g, 26.47 mmol) in dichloromethane (10 ml) was treated with diethyl azodicarboxylate (4.59 ml, 29.12 mmol) at room temperature. The mixture was concentrated in vacuo and dissolved in diethyl ether to remove triphenylphosphine oxide. The organic phase was purified by flash column chromatography on silica, eluting with hexane, to afford the title compound as a clear oil (1.01 g, 20%).

reactant | 3-methylbenzenethiol | 23.82 mmol, 1.80 ml | CC=1C=C(C=CC1)S | C7H8S
reactant | 2-methyl-3-buten-1-ol | 26.47 mmol, 2.73 ml | CC(CO)C=C | C5H10O
reactant | triphenylphosphine | 26.47 mmol, 6.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 29.12 mmol, 4.59 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Methyl-3-(2-methylbut-3-enylsulfanyl)benzene | 1.01 g, 20% | CC1=CC(=CC=C1)SCC(C=C)C | C12H16S
